US08097708B2
Synthesis of benzyl 4-(2-aminoethyl)piperazine-1-carboxylate
N-(2-Aminoethyl)piperazine (4.93 g) was dissolved in tetrahydrofuran (40 ml), and the solution was added with triethylamine (10.6 ml). The mixture was added with a solution of benzyl chloroformate (4.9 ml) in tetrahydrofuran (40 ml) under ice cooling, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was added with ethyl acetate and saturated aqueous sodium hydrogencarbonate, the layers were separated, and then the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (chloroform:methanol:28% aqueous ammonia=10:1:0.1) to obtain the title compound (400 mg).

reactant | N-(2-Aminoethyl)piperazine | 4.93 g | NCCN1CCNCC1 | C6H15N3
reactant | triethylamine | 10.6 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 4.9 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 4-(2-aminoethyl)piperazine-1-carboxylate | 400 mg | NCCN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H21N3O2
